US08030334B2
A flask is charged with 5-bromo-pyridin-3-ol (0.200 g, 1.126 mmol), potassium phosphate (0.631 g, 2.884 mmol) and acetone (5 mL) and cooled to 0° C. Dimethylsulfamoyl chloride (0.261 g, 1.802 mmol) is then added dropwise and the cooling bath is removed. After 2 h, the mixture is diluted with acetone, filtered and the filtrate is concentrated in vacuo. The residue is dissolved in THF (30 mL) and polymer-supported trisamine (3.85 mmol/g, 0.7 g, 2.7 mmol) is added. After 1 h, the mixture is filtered. Concentration in vacuo gives a residue which is purified by silica gel flash chromatography (heptane-ethyl acetate, 9:1 to 4:1) to give dimethyl-sulfamic acid 5-bromo-pyridin-3-yl ester as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 3.05 (s, 3H), 7.86 (m, 1H), 8.50 (d, J=2.3 Hz, 1H), 8.62 (d, J=1.9 Hz, 1H).

reactant | 5-bromo-pyridin-3-ol | 1.126 mmol, 0.200 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | potassium phosphate | 2.884 mmol, 0.631 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Dimethylsulfamoyl chloride | 1.802 mmol, 0.261 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | trisamine | 2.7 mmol, 0.7 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | dimethyl-sulfamic acid 5-bromo-pyridin-3-yl ester | BrC=1C=C(C=NC1)OS(N(C)C)(=O)=O | C7H9BrN2O3S
